US06548506B2
A suspension of 1.2 g of ethyl 7,9-difluoro-1-(2,4-difluorophenyl)-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate in 15 cm3 of ethanol and 16 cm3 of 1N aqueous potassium hydroxide solution was heated with stirring at a temperature around 80° C. for 2 hours. 10 cm3 of a 10% aqueous acetic acid solution were added, at approximately 80° C., to the solution obtained. The insoluble material was filtered off at this temperature, washed 2 times with 30 cm3 of water and recrystallized from a mixture of 12.5 cm3 of ethanol and 12.5 cm3 of dimethylformamide. 0.75 g of 7,9-difluoro-1-(2,4-difluorophenyl)-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid was obtained in the form of a yellow solid melting at about 284-286° C.

reactant | ethyl 7,9-difluoro-1-(2,4-difluorophenyl)-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | 1.2 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C2=C(C=C(C=C2)F)F)C(=C1N1CCN(CC1)C1=CC=C(C=C1)F)F | C31H23F5N4O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
solvent | potassium hydroxide | 1N, 16 cm3 | [OH-].[K+]
product | 7,9-difluoro-1-(2,4-difluorophenyl)-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 0.75 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2=C(C=C(C=C2)F)F)C(=C1N1CCN(CC1)C1=CC=C(C=C1)F)F | C29H19F5N4O3
